US07851482B2
A reaction vessel is charged with 1 kg of oxymorphone base, prepared as in Example 1.1B, together with 2.05 kg of absolute alcohol and 0.66 kg of water. The mixture is heated to 60±2° C. and stirred to form a slurry. A hydrochloric acid solution prepared from 0.66 kg concentrated hydrochloric acid, 0.24 kg of water and 0.31 kg of absolute alcohol is added to the oxymorphone base slurry and the pH checked to ensure that it is <1.0. 40 g of 10% Pd on carbon catalyst water-wet paste is added under a stream of nitrogen to the reaction mixture and the mixture is hydrogenated at 35±5 psi (2.41 bar) for 20 hours whilst maintaining a temperature of 65±3° C. The reaction mixture is filtered whilst hot through Celite and a 0.2 μm polish filter. The filtrate is cooled to 0-5° C. over 2-3 hours, and stirred for a further 2 hours to form oxymorphone hydrochloride as a precipitate. The precipitate is washed with absolute alcohol then dried. Yield is 80%.

reactant | oxymorphone | 1 kg | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C17H19NO4
reactant | hydrochloric acid | Cl | ClH
reactant | hydrochloric acid | 0.66 kg | Cl | ClH
catalyst | Pd on carbon | 40 g | [Pd] | Pd
solvent | water | 0.24 kg | O | H2O
solvent | water | 0.66 kg | O | H2O
product | oxymorphone hydrochloride | Yield is 80% | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O.Cl | InChI=1S/C17H19NO4.ClH/c1-18-7-6-16-13-9-2-3-10(19)14(13)22-15(16)11(20)4-5-17(16,21)12(18)8-9;/h2-3,12,15,19,21H,4-8H2,1H3;1H/t12-,15+,16+,17-;/m1./s1
